US07935830B2
Step C. 2-Benzyl-5-methoxy-2,3,3a,8a-tetrahydro-1H-2-aza-cyclopenta[a]inden-8-one
N-(Methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (17.3 mL, 67.6 mmol) and TFA (3.4 mL) were added to a solution of 5-methoxy-inden-1-one (5.4 g, 33.8 mmol) in CH2Cl2 (165 mL) at 0° C. The reaction was stirred for 3 hours at room temperature and quenched with saturated aqueous NaHCO3 (165 mL). The organic layer was separated, washed with brine (100 mL), dried over MgSO4, and concentrated to afford the subtitle compound, which was used without further purification. MS calculated for C19H19NO2+H: 294, observed: 294.

reactant | N-(Methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 67.6 mmol, 17.3 mL | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | TFA | 3.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 5-methoxy-inden-1-one | 33.8 mmol, 5.4 g | COC=1C=C2C=CC(C2=CC1)=O | C10H8O2
solvent | CH2Cl2 | 165 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-5-methoxy-2,3,3a,8a-tetrahydro-1H-2-aza-cyclopenta[a]inden-8-one | C(C1=CC=CC=C1)N1CC2C(C=3C=C(C=CC3C2=O)OC)C1 | C19H19NO2
